US09029360B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-chloro-5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone
To 0.03 g (0.12 mmol) 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid, 0.12 mmol 2-chloro-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine hydrochloride and 0.51 mmol triethyl amine (TEA) in 1.5 ml dimethylformamide (DMF) 0.14 mmol TBTU (O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate) was added and the reaction mixture was stirred at RT for 1 h. Water was added to the reaction mixture. The precipitate was collected and dried. Yield: 0.018 g (36% of theory). ESI-MS: m/z=406 (M+H)+; Rt(HPLC): 1.29 min. (Method J).

reactant | 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | 0.12 mmol, 0.03 g | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2-chloro-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine hydrochloride | 0.12 mmol | Cl.ClC=1C=CC2=C(CCNCC2)N1
reactant | triethyl amine | 0.51 mmol | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 0.14 mmol, 1.5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-chloro-5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)C=CC(=N1)Cl | C16H13BrClN5O
